US07199147B2
To a solution of 2-(1H-indazol-5-ylamino)benzoic acid (80 mg, 0.316 mmol) in N,N-dimethylformamide (0.5 ml) were added 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride (73 mg, 0.379 mmol), hydroxybenzotriazole (58 mg, 0.379 mmol) and a 40%-aqueous dimethylamine solution (107 mg, 0.948 mmol), and the resulting mixture was stirred at room temperature for 4 hours. Then, a 5%-aqueous sodium hydrogencarbonate solution was added to the reaction solution, followed by extraction with a mixed solvent of ethyl acetate and toluene. The organic layer was washed with a 5%-aqueous sodium hydrogencarbonate solution and then a 5%-aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off under reduced pressure and the resulting residue was purified by a silica gel column chromatography (eluent: hexane/ethyl acetate/methanol=1/1/0.05) to obtain 2-(1H-indazol-5-ylamino)-N,N-dimethylbenzamide (59 mg, 67%).

reactant | 2-(1H-indazol-5-ylamino)benzoic acid | 0.316 mmol, 80 mg | N1N=CC2=CC(=CC=C12)NC1=C(C(=O)O)C=CC=C1 | C14H11N3O2
reactant | 1-ethyl-3-(3′-dimethylaminopropyl)carbodiimide monohydrochloride | 0.379 mmol, 73 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | hydroxybenzotriazole | 0.379 mmol, 58 mg | OC1=CC=CC=2NN=NC21 | C6H5N3O
reactant | dimethylamine | 0.948 mmol, 107 mg | CNC | C2H7N
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 2-(1H-indazol-5-ylamino)-N,N-dimethylbenzamide | 59 mg, 67% | N1N=CC2=CC(=CC=C12)NC1=C(C(=O)N(C)C)C=CC=C1 | C16H16N4O
